US05411966
1,1-Diethyl-3-[13-(1,3-dithiolan-2-yl)-2,6-dimethyl-8alphaergolinyl]-urea
5.31 g of 1,1-diethyl-3-(2,6-dimethyl-8alpha-ergolinyl)-urea (15 mmol) is dissolved in 150 ml of chloroform and 50 ml of formic acid ethyl ester, 2.8 ml of ethanedithiol (33 mmol) and 60 ml of a 1 molar solution of titanium tetrachloride in dichloromethane (60 mmol) are added and stirred for 20 hours at room temperature. Then, it is mixed with 40 ml of methanol and 300 ml of water, made alkaline with 30 ml of 25% ammonia solution and shaken out with dichloromethane. The organic phases are dried with sodium sulfate, concentrated by evaporation and the residue is chromatographed on silica gel with dichloromethane/methanol. 4.14 g of substance, which crystallizes from ethyl acetate, is isolated, [α]D =-4° (0.5 % in chloroform).

reactant | 1,1-diethyl-3-(2,6-dimethyl-8alpha-ergolinyl)-urea | 15 mmol, 5.31 g | C(C)N(C(=O)N[C@@H]1CN([C@@H]2CC3=C(NC4=CC=CC([C@H]2C1)=C34)C)C)CC | C21H30N4O
reactant | ethanedithiol | 33 mmol, 2.8 ml | C(C)(S)S | C2H6S2
reactant | ammonia | 30 ml | N | H3N
reactant | formic acid ethyl ester | 50 ml | C(C)OC=O | C3H6O2
solvent | chloroform | 150 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | titanium tetrachloride | [Ti](Cl)(Cl)(Cl)Cl
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | water | 300 ml | O | H2O
solvent | methanol | 40 ml | CO | CH4O
solvent | dichloromethane | 60 mmol | ClCCl | CH2Cl2
product | 1,1-Diethyl-3-[13-(1,3-dithiolan-2-yl)-2,6-dimethyl-8alphaergolinyl]-urea | C(C)N(C(=O)N[C@@H]1CN([C@@H]2CC3=C(NC4=CC(=CC([C@H]2C1)=C34)C3SCCS3)C)C)CC | C24H34N4OS2
